US05140035
22 ml (0.036 mol) of a 1.6 molar n-butyl-lithium solution are added at -78° C. with stirring to a mixture of 6.9 g (0.036 mol) of 4-bromochlorobenzene and 70 ml of diethyl ether. The reaction mixture is warmed to 0° C. and stirred at this temperature for 15 minutes. After cooling to -78° C. again, a solution of 4.8 g (0.03 mol) of N-methoxy-N-methyl-1-methoxycyclopropane-carboxamide in 20 ml of diethyl ether is added rapidly. The mixture is then subsequently stirred at -78° C., at 0° C. and at room temperature, in each case for one hour. 20 ml of ethyl acetate are then added to the reaction mixture, which is stirred for 5 minutes and then poured into ice-water. The resulting mixture is extracted three times with ethyl acetate, and the combined organic phases are dried over sodium sulphate and then concentrated by stripping off the solvent under reduced pressure. 6.1 g (97% of theory) of 1-methycyclopropyl 4-chlorophenyl ketone are obtained in this manner and are reacted further without prior purification.

reactant | n-butyl-lithium | 1.6 molar | C(CCC)[Li]
reactant | 4-bromochlorobenzene | 0.036 mol, 6.9 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | N-methoxy-N-methyl-1-methoxycyclopropane-carboxamide | 0.03 mol, 4.8 g | CON(C(=O)C1(CC1)OC)C | C7H13NO3
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 1-methycyclopropyl 4-chlorophenyl ketone | 6.1 g, 97% | ClC1=CC=C(C=C1)C(=O)C1(CC1)C | C11H11ClO
